US04576732
4'-n-Octyloxy-4-nitrobiphenyl, a known substance, was reduced with hydrogen in an ethyl acetate solution using a Pd/C catalyst and recrystallized from ethanol to obtain 4'-n-octyloxy-4-aminobiphenyl. 3 g of the obtained product was reacted with 2.2 g S-p-(2-methylbutyloxycarbonyl)benzaldehyde in the same manner as described in Example 19 and recrystallized from ethyl acetate to obtain bright yellow crystals.

reactant | 4'-n-Octyloxy-4-nitrobiphenyl | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H25NO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4'-n-octyloxy-4-aminobiphenyl | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)N | C20H27NO
